* C:\Users\user\power_source_generator\pcb_dataset\3890-1.asc
XU1 N014 N012 N006 OUT1 N001 N018 0 RUN RUN OUT2 N009 N013 N015 N017 N003 N008 N005 N011 N001 NC_01 0 IN N010 N004 N007 N002 NC_02 N016 LTC3890-1
V1 IN 0 48
M§Q1 IN N003 N008 N008 Si4896DY
M§Q2 N008 N011 0 0 Si4896DY
D1 N001 N005 1N4148
C1 N001 0 4.7µ
C2 N005 N008 .1µ
L1 N008 N009 7.2µ
R1 N009 OUT2 7m
C3 OUT2 0 150µ
R2 OUT2 N013 280K
R3 N013 0 20K
C4 N015 0 220p Rser=15K
C5 N017 0 .001µ
M§Q3 IN N002 N007 N007 Si4896DY
M§Q4 N007 N010 0 0 Si4896DY
D2 N001 N004 1N4148
C6 N004 N007 .1µ
L2 N007 N006 7.2µ
R4 N006 OUT1 7m
C7 OUT1 0 150µ
R5 OUT1 N012 62.5K
R6 N012 0 20K
C8 N014 0 220p Rser=15K
C9 N016 0 .001µ
V2 RUN 0 5
Rload2 OUT2 0 3.4
Rload1 OUT1 0 .67
.model D D
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
.lib LTC3890-1.sub
.backanno
.end
